US09340549B2
(S)-4-(4-Fluorophenyl)-5,5-dimethyl-3-(4-((3-nitropyridin-4-yl)amino)cyclohexyl)oxazolidin-2-one
To a vial charged with (S)-3-(4-aminocyclohexyl)-4-(4-fluorophenyl)-5,5-dimethyloxazolidin-2-one (0.320 g, 1.044 mmol) were added ACN (3.48 mL), DIEA (0.365 mL, 2.089 mmol) and 4-chloro-3-nitropyridine (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (0.166 g, 1.044 mmol) respectively. The vial was sealed and heated at 80° C. for 2 hours leading to ˜90% conversion to the desired product with starting amine present. Additional chloropyridine (0.2 eq) and DIEA (0.2 eq) were added, and the mixture was heated at 80° C. for an additional 15 hours. The dark mixture was dried under reduced pressure and purified with a 25 g HP spherical silica column ramping DCM:MeOH (90:10) in DCM from 0-50%, then isocratic at 50% (detection at 215 nm) leading to isolation of (S)-4-(4-fluorophenyl)-5,5-dimethyl-3-(4-((3-nitropyridin-4-yl)amino)cyclohexyl)oxazolidin-2-one (0.286 g, 0.668 mmol, 63.9% yield) as an orange/brown oil and as a mixture of cis/trans isomers. m/z (ESI) 429.0 (M+H)+.

reactant | (S)-3-(4-aminocyclohexyl)-4-(4-fluorophenyl)-5,5-dimethyloxazolidin-2-one | 1.044 mmol, 0.320 g | NC1CCC(CC1)N1C(OC([C@@H]1C1=CC=C(C=C1)F)(C)C)=O | C17H23FN2O2
reactant | DIEA | 2.089 mmol, 0.365 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-3-nitropyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | ACN | 3.48 mL | C(C)#N | C2H3N
product | (S)-4-(4-Fluorophenyl)-5,5-dimethyl-3-(4-((3-nitropyridin-4-yl)amino)cyclohexyl)oxazolidin-2-one | FC1=CC=C(C=C1)[C@@H]1N(C(OC1(C)C)=O)C1CCC(CC1)NC1=C(C=NC=C1)[N+](=O)[O-] | C22H25FN4O4
